reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[N:1]([C+:2]([O:3][C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[N-:4][H:10])([H:8])[H:9],73.92300709716879
[C:1]([C@@:2]([C:3]([C:4](=[C:5]([H:14])[H:15])[H:13])([H:11])[H:12])([O:6][H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9],86.73794659512467
[C+:1]([N:2]([C:3]([O-:4])=[C:5]([H:11])[H:12])[H:9])([H:7])[H:8].[H:6][H:10]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([H:10])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],23.229011972698686
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[N+:6]#[C-:5])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]#[N:6])([H:7])([H:8])[H:9],42.23430924084722
[C:1]([C:2]#[C:3][C:4]#[C:5][H:9])([H:6])([H:7])[H:8]>>[C+:1]([C:2]#[C:3][C:4](=[C-:5][H:9])[H:8])([H:6])[H:7],135.294491371061
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C@:2]([O:3][C:4](=[O:5])[H:12])([H:11])[C:6]1=[C:7]([H:9])[H:13],96.8485904412093
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C-:3]#[O+:4].[C:1](/[C:2](=[C:5](/[O:6][H:12])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],44.2952493886851
[C:1]([C:2][C:3]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9].[O:4]([C:5]([O:6][H:16])([H:14])[H:15])[H:13]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]([O:6][H:16])([H:14])[H:15])([H:7])([H:8])[H:9],32.38371845894241
[C:1](=[C:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:6])[H:7].[H:8][H:9]>>[C:1]([C:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],81.84675356007921
[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]#[N:4])([C:7]([C:5](=[O:6])[H:13])([H:12])[H:14])[H:11])([H:8])([H:9])[H:10],94.8145952433018
[C:1](/[C:2](=[C:3](/[C:4](/[C:5](=[C:6](\[O:7][H:19])[H:18])[H:16])([H:14])[H:15])[H:13])[H:12])([H:8])([H:9])[H:10].[H:11][H:17]>>[C:1]([C:2]([C@@:3]1([H:13])[C:4]([H:14])([H:15])[C@:5]1([C:6]([O:7][H:19])([H:17])[H:18])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10],49.52295898246479
[C:1](/[C:2](=[C:3](\[C:4]([H:13])([H:14])[H:15])[H:12])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:16]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],44.2464158470472
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1](/[C:2](=[C:3](\[N:5]=[C:4]([H:10])[H:11])[H:9])[H:8])[C:6](=[O:7])[H:12],59.0716298526145
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:11])[H:12])[C@:6]1([H:14])[O:5][C:4]([H:13])=[C:7]1[H:15])([H:8])([H:9])[H:10],57.226625298928006
[N:1]([c:2]1[n:3][n:4]([H:9])[c:5]([H:10])[n:6]1)([H:7])[H:8]>>[N:1]([C:2]1=[N:3][N:6]1/[C:5](=[N:4]/[H:9])[H:10])([H:7])[H:8],90.50522206281772
[C:1]([O:2][C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2]/[C:3](=[C:4](\[C:5]([O:6][H:16])([H:14])[H:15])[H:12])[H:11])([H:7])([H:8])[H:9].[H:10][H:13],107.003868755655
[N:1]([c:2]1[c:3]([O:4][H:10])[n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])[H:9]>>[N:1]([C:2]1(/[C:3]([O:4][H:10])=[N:5]/[H:11])[C:6]([H:12])=[C:7]1[H:13])([H:8])[H:9],87.4549361251932
[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:15])[C:6]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])[H:10])([H:7])([H:9])[H:14]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9],96.78122159813134
[C:1]([O:2][C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([N:6]=[C:5]=[C:4]([H:12])[H:13])([H:7])([H:8])[H:9].[O:2]=[C:3]([H:10])[H:11],95.2842518920105
[N:1](=[c:2]1\[n:3][c:4]([H:9])[n:5]([H:8])[o:6]1)\[H:7]>>[N:1]([c+:2]1[n-:3][c:4]([H:9])[n:5][o:6]1)([H:7])[H:8],86.7950854200984
[C:1]([C:2](=[C:3])[C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[N:6]([H:10])[H:11])([H:7])([H:8])[H:9],5.480033868089421
[C:1]([O:6]/[C:5](=[C:2](/[C:3]([O:4][H:13])([H:11])[H:12])[H:10])[H:14])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],76.89009553877041
[N:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:10])[H:9])([H:7])[H:8]>>[N:1](=[C:2]=[O:3])[H:7].[N:4](=[C:5](\[O:6][H:8])[H:10])\[H:9],57.39917137053221
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5][C-:6]=[N+:7]([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],80.7756242624418
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[N:1](=[C:2]=[C:6]=[N:7][O:5][C:4](=[O:3])[H:9])[H:8],80.0080831804572
